2172-04-24 07:24:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   - amio load and converted back to sinus rhythm at around 8 pm
   - family mtg and she wishes to be dnr/dni
   History obtained from Patient
   Allergies:
   History obtained from PatientLatex Gloves (Miscell) (Gloves
   Latex)
   Unknown;
   Aspirin
   Unknown;
   Colchicine
   Unknown;
   Antihistamine (Oral) (Diphenhydramine Hcl)
   Unknown;
   Quinolones
   Unknown;
   Vasodilators
   Misc. Classifier
   Unknown;
   Loratadine
   Unknown;
   Theophylline
   Unknown;
   Opioids: Morphine   Related
   Hallucinations;
   Cortisone
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Azithromycin
   Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Cefipime - [**2172-4-23**] 02:05 PM
   Vancomycin - [**2172-4-23**] 08:00 PM
   Ciprofloxacin - [**2172-4-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-4-23**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2172-4-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO, Parenteral nutrition
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2172-4-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (74 - 120) bpm
   BP: 128/80(96) {113/59(79) - 160/94(120)} mmHg
   RR: 23 (20 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,498 mL
                                                                    397 mL
   PO:
             TF:
   IVF:
                                                                  1,487 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    375 mL
   Urine:
                                                                  1,130 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,368 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: 7.44/46/63/27/5
   PaO2 / FiO2: 126
   Physical Examination
   Sitting in bed, anxious, asking if she is dying, tachypnic
   Dry MM
   Irreg, tachy, no g/m/r
   Lungs with inspiratory wheezing/squeeks bilaterally, fine inspiratory
   crackles bilaterally
   Abd soft nontender +bowel sounds
   Extrem cool w/o LE edema
   L wrist tender to palpation and with passive and active flex/extend, no
   erythema or increased warmth
   Following commands
   Labs / Radiology
   646 K/uL
   10.0 g/dL
   109 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.2 mEq/L
   15 mg/dL
   94 mEq/L
   129 mEq/L
   30.9 %
   19.4 K/uL
        [image002.jpg]
                             [**2172-4-21**]  03:40 AM
                             [**2172-4-21**]  03:57 AM
                             [**2172-4-21**]  02:33 PM
                             [**2172-4-21**]  06:22 PM
                             [**2172-4-22**]  04:28 AM
                             [**2172-4-22**]  04:47 AM
                             [**2172-4-23**]  06:10 AM
                             [**2172-4-23**]  08:31 AM
                             [**2172-4-23**]  10:18 AM
                             [**2172-4-24**]  03:59 AM
   WBC
   13.1
   14.6
   22.4
   21.9
   19.4
   Hct
   26.0
   28.8
   34.2
   33.5
   30.9
   Plt
   [**Telephone/Fax (3) 7683**]09
   646
   Cr
   0.5
   0.6
   0.6
   0.6
   TCO2
   39
   33
   34
   34
   32
   Glucose
   118
   122
   122
   109
   Other labs: PT / PTT / INR:14.9/34.3/1.3, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:17/18, Alk Phos / T Bili:105/0.3,
   Differential-Neuts:79.6 %, Lymph:13.2 %, Mono:3.3 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:331 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Blood, urine cx [**4-23**]: NGTD
   Sputum cx [**4-17**]: coag + staph
   Wrist XRay [**4-23**]:
   Osteopenia, prominent 10mm cystic lucency in scaphoid waste, c/w
   post-traumatic defect which may connote an underlying fx at this site.
   No other obvious fracture, degenerative changes.  ? targeted MDCT
   CXR [**4-23**]:
   The left internal jugular line tip is at the superior SVC.
   Cardiomediastinal
   silhouette is unchanged. There is slight interval additional
   improvement in
   the parenchymal opacities that might represent a process of fluctuation
   of
   superimposed pulmonary edema giving the more involvement of the lung
   parenchyma than on for example [**2172-4-18**] or [**2172-4-20**], although
   note is
   made that the improvement of the lung parenchyma may lag after clinical
   improvement. There is slightly more lucent area in the right suprahilar
   area
   that may represent either parenchyma or a pneumatocele that might be
   further
   observed on the subsequent studies.
   Assessment/Plan:  80 F with CAD, CHF, CVA, ILD, COPD and multiple
   abdominal surgeries transfer from OSH for 2nd opinion of diarrhea who
   was admitted to MICU for hypoxia.  Continues to require intubation.
   # Respiratory distress
   Appears more comfortable today. WBC trending down. Sputum has
   previously grown MRSA.
   - Continue cefepime (day 1=[**4-23**]) and vanco (day 1=[**4-11**], [**4-17**]
   therapeutic)
   - Repeat sputum gram stain and cx
   - Repeat ABG
   - Consider NIPPV if needed -> NO intubation
   - Holding on further diuresis
   - Continue to treat anxiety, on olanzapine, can use low dose morphine
   - Cont atrovent though unclear to what extent bronchodilators are
   helping her
   - ? underlying lung disease -> review [**Hospital1 1031**] records. Pt had been
   diagnosed with sarcoidosis previously.
   - Per patient and family, would NOT wish re-intubation
   # Afib
   Rate poorly controlled despite dilt drip, bolus IV dilt and
   metoprolol.  Now back in sinus with amio load
   - Cont load with amiodarone today, wean dilt as tolerated
   - Change to PO amio when load finished
   - Continuing to hold on anticoagulation
   # Diarrhea:
   Stool volume much improved on Vivonex -> now on TPN
   Has had extensive w/u without diagnosis. Leading diagnosis is short gut
   ("short colon") although short colon does not typically cause diarrhea.
   Infections have been repeated r/o. Microscopic colitis is under
   consideration and biopsies are pending at OSH. Gastrin elevated, 5HIAA
   minimally elevated from OSH; VIP from OSH pending. Pancreatic
   insufficiency should also be considered.  Once TF were restarted
   ([**Date range (1) 625**]) diarrhea worsened.  Stool Osm gap 66, more suggestive of a
   secretory diarrhea. TTG within normal limits; c.diff negative x2.
   - Continue nortriptyline
   - Restart immodium ([**4-19**])
   - OSH colon biopsy, VIP pending
   - GI input appreciated, scope when respiratory status improves
   # Wrist pain
   Will need to clarify whether any history of arthritis (pt denies
   today). Consider pseudogout given acute illness, joint however does not
   appear to be inflamed. [**Month (only) 51**] also be sore from wrist restraints.  XRay
   with cystic luceny -> ? underlying fracture
   - Final read plain films
   - Tylenol prn pain
   - D/w ortho or rads regarding findings, though even if small fx would
   not operate
   # Anemia: Unclear etiology; stablilized  no gross bleeding
   - Daily Hct, T+S, transfuse hb>7
   # Gastritis/ GERD: Continue PPI IV
   # CAD: Not on ASA? Will discuss with patient once extubated.
   - Continue plavix
   - Holding simvastatin
   # Hypothyroidism: TSH was 3.71 at OSH and Levothyroxine dose appears to
   have been decreased from 200mg to 100mg daily.
   # Hypotension: Now resolved.  Likely due to precedex, Fentanyl on [**4-16**].
   Now resolved on propofol
   # B12 deficiency: Start supplements (PO if tolerated)
   # Hyponatremia
   - Check PM lytes
   ICU Care
   Nutrition:
   TPN without Lipids - [**2172-4-23**] 05:43 PM 42 mL/hour -> start TPN today
   Speech and swallow reeval next week if continues to do well
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-12**] 12:52 PM
   Arterial Line - [**2172-4-12**] 02:35 PM
   PICC Line - [**2172-4-17**] 05:24 PM  currently in position as a midline
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: change to H2 blocker given concomitant plavix
   VAP: HOB elevation
   Comments:  up to chair today
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI  if decompensates would make her CMO
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She slept well on trazodone last night. She is less tachypneic and is
   back in NSR too. She has not needed NIPPV and has decided against
   re-intubation. Her daughter slept at her bedside last night . Her cough
   is weak but her voice is stronger.
   Agree with plan to support caloric needs with TPN for now and wean O2
   as tolerated. She will transition to a chair during the day if possible
   to allow restoration of circadian physiology with the aid of trazodone
   at night. I am hopeful that with the appropriate antibiotics and
   nutritional support she will have another attempt at a speech/ swallow
   evaluation next week. If she should decline, she will be made a CMO.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2172-4-24**] 12:41 ------

2172-04-25 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Switched to amiodarone 400mg [**Hospital1 7**] x1 week
   - TPN written for
   - Trazodone HS, morphine prn
   Allergies:
   Latex Gloves (Miscell) (Gloves
   Latex)
   Unknown;
   Aspirin
   Unknown;
   Colchicine
   Unknown;
   Antihistamine (Oral) (Diphenhydramine Hcl)
   Unknown;
   Quinolones
   Unknown;
   Vasodilators
   Misc. Classifier
   Unknown;
   Loratadine
   Unknown;
   Theophylline
   Unknown;
   Opioids: Morphine   Related
   Hallucinations;
   Cortisone
   Unknown;
   Azithromycin
   Unknown;
   Nsaids
   Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Vancomycin - [**2172-4-24**] 08:00 AM
   Cefipime - [**2172-4-24**] 02:00 PM
   Ciprofloxacin - [**2172-4-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-4-24**] 10:00 PM
   Ranitidine (Prophylaxis) - [**2172-4-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-25**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 110 (86 - 115) bpm
   BP: 85/40(57) {85/40(57) - 180/127(147)} mmHg
   RR: 28 (23 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,087 mL
                                                                    409 mL
   PO:
             TF:
   IVF:
                                                                  1,078 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    530 mL
   Urine:
                                                                  2,025 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     62 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Sitting in bed, anxious, asking if she is dying, tachypnic
   Dry MM
   Irreg, tachy, no g/m/r
   Lungs with inspiratory wheezing/squeeks bilaterally, fine inspiratory
   crackles bilaterally
   Abd soft nontender +bowel sounds
   Extrem cool w/o LE edema
   L wrist tender to palpation and with passive and active flex/extend, no
   erythema or increased warmth
   Following commands
   Labs / Radiology
   723 K/uL
   10.2 g/dL
   149 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   100 mEq/L
   135 mEq/L
   31.4 %
   18.6 K/uL
        [image002.jpg]
                             [**2172-4-21**]  03:57 AM
                             [**2172-4-21**]  02:33 PM
                             [**2172-4-21**]  06:22 PM
                             [**2172-4-22**]  04:28 AM
                             [**2172-4-22**]  04:47 AM
                             [**2172-4-23**]  06:10 AM
                             [**2172-4-23**]  08:31 AM
                             [**2172-4-23**]  10:18 AM
                             [**2172-4-24**]  03:59 AM
                             [**2172-4-25**]  04:16 AM
   WBC
   14.6
   22.4
   21.9
   19.4
   18.6
   Hct
   28.8
   34.2
   33.5
   30.9
   31.4
   Plt
   [**Telephone/Fax (3) 7708**]46
   723
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   39
   33
   34
   34
   32
   Glucose
   122
   122
   109
   149
   Other labs: PT / PTT / INR:14.9/34.3/1.3, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:17/18, Alk Phos / T Bili:105/0.3,
   Differential-Neuts:79.6 %, Lymph:13.2 %, Mono:3.3 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:331 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   80 F with CAD, CHF, CVA, ILD, COPD and multiple abdominal surgeries
   transfer from OSH for 2nd opinion of diarrhea who was admitted to MICU
   for hypoxia, now s/p intubation.
   1. Respiratory distress
   Etiology is unclear. Initial event was likely related to pneumonia and
   ARDS. She had improved but then on [**2172-4-23**] developed a new WBC. Today
   she looks improved. Appears more comfortable today. WBC trending down.
   Her underlying lung disease diagnosis is unclear, although she may have
   sarcoidosis.
   - Continue cefepime (day 1=[**4-23**]) and vanco (day 1=[**4-11**], [**4-17**]
   therapeutic)
   - follow-up cultures
   - Consider NIPPV if needed -> NO intubation
   - Continue to treat anxiety, on olanzapine, can use low dose morphine
   - Cont atrovent though unclear to what extent bronchodilators are
   helping her
   - Spiriva
   - Will try trial of solumedrol given tightness on exam.  She is
   adequately being treated for infection currently
   - Check venous ABG
   2. Afib
   Rate poorly controlled despite dilt drip, bolus IV dilt and
   metoprolol.  Now back in sinus with amio load
   - Cont amiodarone
   - Continuing to hold on anticoagulation
   3. Diarrhea:
   Stool volume much improved on Vivonex -> now on TPN
   Has had extensive w/u without diagnosis. Leading diagnosis is short gut
   ("short colon") although short colon does not typically cause diarrhea.
   Infections have been repeated r/o. Microscopic colitis is under
   consideration and biopsies are pending at OSH. Gastrin elevated, 5HIAA
   minimally elevated from OSH; VIP from OSH pending. Pancreatic
   insufficiency should also be considered.  Once TF were restarted
   ([**Date range (1) 625**]) diarrhea worsened.  Stool Osm gap 66, more suggestive of a
   secretory diarrhea. TTG within normal limits; c.diff negative x2.
   - Continue nortriptyline
   - Restart immodium ([**4-19**])
   - OSH colon biopsy, VIP pending
   - GI input appreciated, scope when respiratory status improves
   4. Wrist pain
   Will need to clarify whether any history of arthritis (pt denies
   today). Consider pseudogout given acute illness, joint however does not
   appear to be inflamed. [**Month (only) 51**] also be sore from wrist restraints.  XRay
   with cystic luceny -> ? underlying fracture
   - Final read plain films
   - Tylenol prn pain
   - D/w ortho or rads regarding findings, though even if small fx would
   not operate
   5. Anemia: Unclear etiology; stablilized  no gross bleeding
   - Daily Hct, T+S, transfuse hb>7
   6. Gastritis/ GERD: Continue PPI IV
   7. CAD: Not on ASA? Will discuss with patient once extubated.
   - Continue plavix
   - Holding simvastatin
   8. Hypothyroidism: TSH was 3.71 at OSH and Levothyroxine dose appears
   to have been decreased from 200mg to 100mg daily.
   9.Hypotension: Now resolved.  Likely due to precedex, Fentanyl on [**4-16**].
   Now resolved on propofol
   10.Hyponatremia
   Sodium is improved with sodium of 135 today.
   - daily lytes
   ICU Care
   Nutrition:
   TPN without Lipids - [**2172-4-24**] 05:25 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-12**] 12:52 PM
   Arterial Line - [**2172-4-12**] 02:35 PM
   PICC Line - [**2172-4-17**] 05:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-04-25 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 F with CAD, CHF, CVA, ILD, COPD and multiple abdominal surgeries
   admitted to MICU for hypoxic respiratory failure, felt to be
   multifactorial, related to poss sarcoid, COPD, aspiration and ARDS.
   Extubated [**4-21**]
   24 Hour Events:
   No complaints or events.
   History obtained from Patient, Family / Friend
   Allergies:
   Latex Gloves (Miscell) (Gloves
   Latex)
   Unknown;
   Aspirin
   Unknown;
   Colchicine
   Unknown;
   Antihistamine (Oral) (Diphenhydramine Hcl)
   Unknown;
   Quinolones
   Unknown;
   Vasodilators
   Misc. Classifier
   Unknown;
   Loratadine
   Unknown;
   Theophylline
   Unknown;
   Opioids: Morphine   Related
   Hallucinations;
   Cortisone
   Unknown;
   Azithromycin
   Unknown;
   Nsaids
   Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Cefipime - [**2172-4-24**] 02:00 PM
   Vancomycin - [**2172-4-25**] 08:46 AM
   Ciprofloxacin - [**2172-4-25**] 10:46 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2172-4-25**] 08:51 AM
   Heparin Sodium (Prophylaxis) - [**2172-4-25**] 08:51 AM
   Other medications:
   Plavix, Synthroid, Nortriptyline, RISS, Olanzapine, Atrovent, Flovent,
   Lidocaine patch, Cipro Iv q12, Cefepime, Ranitidine 150 [**Hospital1 **], Amiodarone
   400 [**Hospital1 **] x 7d, B12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-25**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 110 (93 - 115) bpm
   BP: 164/93(122) {85/40(57) - 197/163(174)} mmHg
   RR: 28 (23 - 39) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,087 mL
                                                                  1,038 mL
   PO:
             TF:
   IVF:
                                                                  1,078 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    910 mL
   Urine:
                                                                  2,025 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     62 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool, Face tent
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Anxious, dyspneic
   Eyes / Conjunctiva: MM dry
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffusely)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace, Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   723 K/uL
   149 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   100 mEq/L
   135 mEq/L
   31.4 %
   18.6 K/uL
         [image002.jpg]
                             [**2172-4-21**]  03:57 AM
                             [**2172-4-21**]  02:33 PM
                             [**2172-4-21**]  06:22 PM
                             [**2172-4-22**]  04:28 AM
                             [**2172-4-22**]  04:47 AM
                             [**2172-4-23**]  06:10 AM
                             [**2172-4-23**]  08:31 AM
                             [**2172-4-23**]  10:18 AM
                             [**2172-4-24**]  03:59 AM
                             [**2172-4-25**]  04:16 AM
   WBC
   14.6
   22.4
   21.9
   19.4
   18.6
   Hct
   28.8
   34.2
   33.5
   30.9
   31.4
   Plt
   [**Telephone/Fax (3) 7708**]46
   723
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   39
   33
   34
   34
   32
   Glucose
   122
   122
   109
   149
   Other labs: PT / PTT / INR:14.9/34.3/1.3, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:17/18, Alk Phos / T Bili:105/0.3,
   Differential-Neuts:79.6 %, Lymph:13.2 %, Mono:3.3 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:331 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: Echo ([**4-13**])- EF 50%, borderline elevated RVSP
   Microbiology: [**4-23**] urine- neg to date
   [**4-23**] Blood- neg to dat
   Assessment and Plan
   # Respiratory distress, multifactorial and due to COPD, ? sarcoid,
   resolved ARDS. concern [**Name8 (MD) **] RN for poss aspiration again today when
   rinsing mouth
    -Appears more distressed today and wheezy.
   -continue cefepime (day 1=[**4-23**]) and vanco (day 1=[**4-11**], [**4-17**] therapeutic)
   -start steroids for poss COPD exac
   -nebs
   -VBG to assess CO2 retention and CXR to assess for poss edema, other
   treatable interventions
   -low-dose MSO4 for air hunger
   -may need to address goals of care with patient and family today
   # Afib-Rate poorly controlled despite dilt drip, bolus IV dilt and
   metoprolol.  Now back in sinus with amio load
   - Cont load with amiodarone today, wean dilt as tolerated
   - Change to PO amio when load finished
   - Continuing to hold on anticoagulation
   # Goals of care- will need to re-address with pt and family given
   clinical deterioration today
   ICU Care
   Nutrition:
   TPN without Lipids - [**2172-4-24**] 05:25 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-12**] 12:52 PM
   Arterial Line - [**2172-4-12**] 02:35 PM
   PICC Line - [**2172-4-17**] 05:24 PM
   Comments: dc a line
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   Addendum
   Family discussion given worsening status with decision to move forward
   with transition to CMO.  Meds and blood draws discontinued and morphine
   gtt started.

2172-04-26 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2172-4-25**] 12:14 PM
 NON-INVASIVE VENTILATION - START [**2172-4-25**] 12:20 PM
 NON-INVASIVE VENTILATION - STOP [**2172-4-25**] 12:33 PM
   [**2172-4-25**]
   - Worsening respiratory distress on [**2172-4-25**] morning. Attempted NIPPV
   briefly but patient did not tolerate it due to discomfort. After
   discussion with patient and family, transitioned to comfort measures
   only. Comfortable on morphine drip.
   Allergies:
   Latex Gloves (Miscell) (Gloves
   Latex)
   Unknown;
   Aspirin
   Unknown;
   Colchicine
   Unknown;
   Antihistamine (Oral) (Diphenhydramine Hcl)
   Unknown;
   Quinolones
   Unknown;
   Vasodilators
   Misc. Classifier
   Unknown;
   Loratadine
   Unknown;
   Theophylline
   Unknown;
   Opioids: Morphine   Related
   Hallucinations;
   Cortisone
   Unknown;
   Azithromycin
   Unknown;
   Nsaids
   Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Vancomycin - [**2172-4-25**] 08:46 AM
   Ciprofloxacin - [**2172-4-25**] 10:46 AM
   Cefipime - [**2172-4-25**] 02:05 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2172-4-25**] 08:51 AM
   Heparin Sodium (Prophylaxis) - [**2172-4-25**] 08:51 AM
   Morphine Sulfate - [**2172-4-25**] 03:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-26**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 147 (105 - 152) bpm
   BP: 65/38(45) {65/38(45) - 137/69(82)} mmHg
   RR: 10 (9 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 64 Inch
    CO/CI (Fick): (79.4 L/min) / (45.7 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  1,518 mL
                                                                     87 mL
   PO:
   TF:
   IVF:
                                                                    782 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    100 mL
   Urine:
                                                                  1,010 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    508 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 338 (338 - 338) mL
   PS : 12 cmH2O
   RR (Spontaneous): 45
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   723 K/uL
   10.2 g/dL
   149 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   100 mEq/L
   135 mEq/L
   31.4 %
   18.6 K/uL
        [image002.jpg]
                             [**2172-4-21**]  03:57 AM
                             [**2172-4-21**]  02:33 PM
                             [**2172-4-21**]  06:22 PM
                             [**2172-4-22**]  04:28 AM
                             [**2172-4-22**]  04:47 AM
                             [**2172-4-23**]  06:10 AM
                             [**2172-4-23**]  08:31 AM
                             [**2172-4-23**]  10:18 AM
                             [**2172-4-24**]  03:59 AM
                             [**2172-4-25**]  04:16 AM
   WBC
   14.6
   22.4
   21.9
   19.4
   18.6
   Hct
   28.8
   34.2
   33.5
   30.9
   31.4
   Plt
   [**Telephone/Fax (3) 7708**]46
   723
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   39
   33
   34
   34
   32
   Glucose
   122
   122
   109
   149
   Other labs: PT / PTT / INR:14.9/34.3/1.3, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:17/18, Alk Phos / T Bili:105/0.3,
   Differential-Neuts:79.6 %, Lymph:13.2 %, Mono:3.3 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:331 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   80 F with CAD, CHF, CVA, ILD, COPD and multiple abdominal surgeries
   transfer from OSH for 2nd opinion of diarrhea who was admitted to MICU
   for hypoxia, now s/p intubation.  Patient
s respiratory distress has
   continued to decline since extubation and she was made comfort measures
   only. Comfortable on morphine drip. Antibiotics and steroids were
   discontinued.
   1. Respiratory distress
   Etiology is unclear. Initial event was likely related to pneumonia and
   ARDS. She had improved but then on [**2172-4-23**] developed a new WBC. Today
   she looks improved. Appears more comfortable today. WBC trending down.
   Her underlying lung disease diagnosis is unclear, although she may have
   sarcoidosis.
   - Continue cefepime (day 1=[**4-23**]) and vanco (day 1=[**4-11**], [**4-17**]
   therapeutic)
   - follow-up cultures
   - Consider NIPPV if needed -> NO intubation
   - Continue to treat anxiety, on olanzapine, can use low dose morphine
   - Cont atrovent though unclear to what extent bronchodilators are
   helping her
   - Spiriva
   - Will try trial of solumedrol given tightness on exam.  She is
   adequately being treated for infection currently
   - Check venous ABG
   2. Afib
   Rate poorly controlled despite dilt drip, bolus IV dilt and
   metoprolol.  Now back in sinus with amio load
   - Cont amiodarone
   - Continuing to hold on anticoagulation
   3. Diarrhea:
   Stool volume much improved on Vivonex -> now on TPN
   Has had extensive w/u without diagnosis. Leading diagnosis is short gut
   ("short colon") although short colon does not typically cause diarrhea.
   Infections have been repeated r/o. Microscopic colitis is under
   consideration and biopsies are pending at OSH. Gastrin elevated, 5HIAA
   minimally elevated from OSH; VIP from OSH pending. Pancreatic
   insufficiency should also be considered.  Once TF were restarted
   ([**Date range (1) 625**]) diarrhea worsened.  Stool Osm gap 66, more suggestive of a
   secretory diarrhea. TTG within normal limits; c.diff negative x2.
   - Continue nortriptyline
   - Restart immodium ([**4-19**])
   - OSH colon biopsy, VIP pending
   - GI input appreciated, scope when respiratory status improves
   4. Wrist pain
   Will need to clarify whether any history of arthritis (pt denies
   today). Consider pseudogout given acute illness, joint however does not
   appear to be inflamed. [**Month (only) 51**] also be sore from wrist restraints.  XRay
   with cystic luceny -> ? underlying fracture
   - Final read plain films
   - Tylenol prn pain
   - D/w ortho or rads regarding findings, though even if small fx would
   not operate
   5. Anemia: Unclear etiology; stablilized  no gross bleeding
   - Daily Hct, T+S, transfuse hb>7
   6. Gastritis/ GERD: Continue PPI IV
   7. CAD: Not on ASA? Will discuss with patient once extubated.
   - Continue plavix
   - Holding simvastatin
   8. Hypothyroidism: TSH was 3.71 at OSH and Levothyroxine dose appears
   to have been decreased from 200mg to 100mg daily.
   9.Hypotension: Now resolved.  Likely due to precedex, Fentanyl on [**4-16**].
   Now resolved on propofol
   10.Hyponatremia
   Sodium is improved with sodium of 135 today.
   - daily lytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-12**] 12:52 PM
   PICC Line - [**2172-4-17**] 05:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2172-04-26 09:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F w/ mult pulmonary comorbidities, including poss sarcoidosis, COPD,
   aspiration and ARDS. Extubated 5d ago but continued respiratory
   distress and overall decline. Made CMO yesterday.
   24 Hour Events:
   no events
   Allergies:
   Latex Gloves (Miscell) (Gloves
   Latex)
   Unknown;
   Aspirin
   Unknown;
   Colchicine
   Unknown;
   Antihistamine (Oral) (Diphenhydramine Hcl)
   Unknown;
   Quinolones
   Unknown;
   Vasodilators
   Misc. Classifier
   Unknown;
   Loratadine
   Unknown;
   Theophylline
   Unknown;
   Opioids: Morphine   Related
   Hallucinations;
   Cortisone
   Unknown;
   Azithromycin
   Unknown;
   Nsaids
   Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Vancomycin - [**2172-4-25**] 08:46 AM
   Ciprofloxacin - [**2172-4-25**] 10:46 AM
   Cefipime - [**2172-4-25**] 02:05 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2172-4-25**] 03:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-26**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 144 (109 - 152) bpm
   BP: 91/38(50) {65/38(45) - 137/69(82)} mmHg
   RR: 12 (9 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 64 Inch
   CO/CI (Fick): (79.4 L/min) / (45.7 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  1,518 mL
                                                                    124 mL
   PO:
   TF:
   IVF:
                                                                    782 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    130 mL
   Urine:
                                                                  1,010 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    508 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 338 (338 - 338) mL
   PS : 12 cmH2O
   RR (Spontaneous): 45
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 93%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: comfortable
   Eyes / Conjunctiva: PERRL
   Cardiovascular: tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : ant bilat)
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   723 K/uL
   149 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   100 mEq/L
   135 mEq/L
   31.4 %
   18.6 K/uL
        [image002.jpg]
                             [**2172-4-21**]  03:57 AM
                             [**2172-4-21**]  02:33 PM
                             [**2172-4-21**]  06:22 PM
                             [**2172-4-22**]  04:28 AM
                             [**2172-4-22**]  04:47 AM
                             [**2172-4-23**]  06:10 AM
                             [**2172-4-23**]  08:31 AM
                             [**2172-4-23**]  10:18 AM
                             [**2172-4-24**]  03:59 AM
                             [**2172-4-25**]  04:16 AM
   WBC
   14.6
   22.4
   21.9
   19.4
   18.6
   Hct
   28.8
   34.2
   33.5
   30.9
   31.4
   Plt
   [**Telephone/Fax (3) 7708**]46
   723
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   39
   33
   34
   34
   32
   Glucose
   122
   122
   109
   149
   Other labs: PT / PTT / INR:14.9/34.3/1.3, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:17/18, Alk Phos / T Bili:105/0.3,
   Differential-Neuts:79.6 %, Lymph:13.2 %, Mono:3.3 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:331 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   # Respiratory distress, multifactorial and due to COPD, ? sarcoid,
   resolved ARDS. concern for recurr aspiration yesterday
   -did not tolerate BiPAP yesterday
   -after discussion with family, made CMO
   -MSO4
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-4-12**] 12:52 PM
   PICC Line - [**2172-4-17**] 05:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 15 minutes
   Patient is critically ill